US07452911B2
N-[5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-methanesulphonamide
Under an N2 atmosphere 39 μL (0.5 mmol) methanesulphonic acid chloride are added to a solution of 100 mg (0.24 mmol) 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-phenylamine and 161 μL (2 mmol) pyridine in 10 mL DCM and the reaction mixture is stirred for 2 h at RT. To complete the reaction a further 160 μL pyridine and 39 μL methanesulphonic acid chloride are added and the mixture is stirred overnight. It is combined with 10% Na2CO3 solution, the organic phase is separated off and the solvent is eliminated i.vac. The residue is purified by HPLC.

reactant | methanesulphonic acid chloride | 0.5 mmol, 39 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.24 mmol, 100 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=C(C1)N)OCCN1CCCC1 | C25H24ClN3O
reactant | pyridine | 2 mmol, 161 μL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 160 μL | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonic acid chloride | 39 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-methanesulphonamide | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=C(C1)NS(=O)(=O)C)OCCN1CCCC1 | C26H26ClN3O3S
